US09084794B2
f) 2-(4-bromophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetic acid
A suspension of 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (8.11 mmol) in dichloromethane (20 mL) was treated with 1N aq sodium hydroxide (10 mL) at room temperature. After stirring for one hour, the dichloromethane layer had turned clear. The mixture was transferred to a separatory funnel and the organic phase was removed. The aqueous layer was extracted twice with dichloromethane. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The resulting yellow oil was dissolved in dichloromethane (20 mL) and treated with 2-oxoacetic acid monohydrate (8.11 mmol) and (4-bromophenyl)boronic acid (8.11 mmol) at room temperature. The reaction was allowed to stir at room temperature for 4 days, at which point an additional equivalent of 2-oxoacetic acid monohydrate (8.11 mmol) was added. The reaction was allowed to stir overnight, at which point the suspension was concentrated in vacuo. Purification of the residue by reverse phase HPLC (5-30% acetonitrile/water with 0.1% NH4OH) afforded the title compound as a white solid (18%). MS(ES)+ m/e 422.9/424.8 [M+H]+ (bromide isotope pattern).

reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 8.11 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | 2-oxoacetic acid monohydrate | 8.11 mmol | O.O=CC(=O)O
reactant | (4-bromophenyl)boronic acid | 8.11 mmol | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | 2-oxoacetic acid monohydrate | 8.11 mmol | O.O=CC(=O)O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(4-bromophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetic acid | 18% | BrC1=CC=C(C=C1)C(C(=O)O)N1CCC2(CN(C(CO2)=O)C2CC2)CC1 | C19H23BrN2O4
